US09351955B2
2-tert-Butyl-malonic acid monoethyl ester
The commercially available 2-tert-butyl-malonic acid diethyl ester (1 g, 4.6 mmol) is dissolved in EtOH (7 mL). A 1N NaOH solution (5.06 mL, 5.06 mmol) is added and the resulting mixture is stirred at 40° C. overnight. Next, the mixture is acidified to pH=1 with HCl. Extraction with EtOAc gives an organic phase that is dried over MgSO4, filtered and evaporated to give the desired product.

reactant | 2-tert-butyl-malonic acid diethyl ester | 4.6 mmol, 1 g | C(C)OC(C(C(=O)OCC)C(C)(C)C)=O | C11H20O4
reactant | NaOH | 5.06 mmol, 1N, 5.06 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | EtOH | 7 mL | CCO | C2H6O
product | 2-tert-Butyl-malonic acid monoethyl ester | C(C)OC(C(C(=O)O)C(C)(C)C)=O | C9H16O4
